US06423717B1
5-Chloro-3-methylbenzo[b]thiophene-2-sulfonic Acid[2-(2-Hydroxyethyl)-4-methoxy-3-(4-methylpiperazin-1-yl)phenyl]amide (E126)
The title compound (E126) was prepared from 2-[6-amino-3-methoxy-2-(4-methylpiperazin-1-yl)phenyl]ethanol (D32) (74 mg, 0.28 mmol) and 5-chloro-3-methylbenzo[b]thiophene-2-sulfonyl chloride (78 mg, 0.28 mmol) using the method of Example 1 (18 mg, 13%). MH+=510.

reactant | 2-[6-amino-3-methoxy-2-(4-methylpiperazin-1-yl)phenyl]ethanol | 0.28 mmol, 74 mg | NC1=CC=C(C(=C1CCO)N1CCN(CC1)C)OC | C14H23N3O2
reactant | 5-chloro-3-methylbenzo[b]thiophene-2-sulfonyl chloride | 0.28 mmol, 78 mg | ClC1=CC2=C(SC(=C2C)S(=O)(=O)Cl)C=C1 | C9H6Cl2O2S2
product | 5-Chloro-3-methylbenzo[b]thiophene-2-sulfonic Acid[2-(2-Hydroxyethyl)-4-methoxy-3-(4-methylpiperazin-1-yl)phenyl]amide | OCCC1=C(C=CC(=C1N1CCN(CC1)C)OC)NS(=O)(=O)C1=C(C2=C(S1)C=CC(=C2)Cl)C | C23H28ClN3O4S2
